US08304546B2
To a benzene solution (38 ml) containing 3-propoxynaphthalen-2-ylamine (600 mg, 2.98 mmol) and ethyl α-acetyl-4-methoxyphenylacetate (1.41 g, 5.96 mmol) was added 85 mg of Amberlyst 15 (Sigma-Aldrich). The resulting mixture was heated under reflux for 20 hours using a Dean-Stark trap. The reaction mixture was cooled to room temperature, filtered to remove resin, and then the filtrate was concentrated under reduced pressure. Diphenyl ether (2.8 ml) was added to the residue, and the mixture was then heated with a mantle heater and stirred for 70 minutes under reflux. The resulting reaction mixture was cooled to room temperature, and then directly purified using silica gel column chromatography (dichloromethane:methanol=80:1→70:1). The purified product was concentrated under reduced pressure, giving an oily substance (800 mg, yield: 72%). Ethyl acetate and n-hexane were added to the thus-obtained oily substance to crystallize and then recrystallized from ethyl acetate, giving a pale yellow powder of 2-(4-methoxyphenyl)-3-methyl-5-propoxy-4H-benzo[f]quinolin-1-one (290 mg).

reactant | benzene | 38 ml | C1=CC=CC=C1 | C6H6
reactant | 3-propoxynaphthalen-2-ylamine | 2.98 mmol, 600 mg | C(CC)OC=1C(=CC2=CC=CC=C2C1)N | C13H15NO
reactant | ethyl α-acetyl-4-methoxyphenylacetate | 5.96 mmol, 1.41 g | C(C)(=O)C(C(=O)OCC)C1=CC=C(C=C1)OC | C13H16O4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 2-(4-methoxyphenyl)-3-methyl-5-propoxy-4H-benzo[f]quinolin-1-one | 290 mg, yield: 72% | COC1=CC=C(C=C1)C1=C(NC=2C(=CC3=C(C2C1=O)C=CC=C3)OCCC)C | C24H23NO3
